US05260492
SYNTHESIS OF 3.4-DICHLORO-1-IODOPERFLUOROBUTANE
A mixture of 400 g of 1,2-dichloro-1-iodotrifluoroethane, 140 g of tetrafluoroethene and 4 g of benzoyl peroxide was heated in 1 L autoclave at 130° C. for 4.5 hours. GC analysis of the reaction mixture (458 g) indicated 37% of starting material, 51% of desired product and 7% of 5,6-dichloro-1-iodoperfluorohexane. The reaction mixture was distilled on a 91 cm spinning band column to give 18.6 g of lower boiler, bp 80°-99° C. (mainly starting material), 138.6 g of starting material, bp 100°-102° C., 50.1 g of mixture of starting material and desired product, bp 103°-140° C. and 211 g of pure desired product, bp 140°-142° C.

reactant | 1,2-dichloro-1-iodotrifluoroethane | 400 g | ClC(C(Cl)(F)F)(I)F | C2Cl2F3I
reactant | tetrafluoroethene | 140 g | FC(=C(F)F)F | C2F4
reactant | benzoyl peroxide | 4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 5,6-dichloro-1-iodoperfluorohexane | ClC(C(C(C(C(I)(F)F)(F)F)(F)F)(F)F)(C(Cl)(F)F)F | C6Cl2F11I
product | 3.4-DICHLORO-1-IODOPERFLUOROBUTANE | 51% | ClC(C(C(I)(F)F)(F)F)(C(Cl)(F)F)F | C4Cl2F7I
